US09108921B2
A mixture of tert-butyl 4-((benzyloxy)methoxy)-4-(3,3-difluoro-2-methylpropyl)piperidine-1-carboxylate (0.33 g) and 5 M HCl in MeOH (4 mL) was stirred in methanol (15 mL) for 3 hrs. The solvent was then removed under vacuum to obtain crude product (4-(3,3-difluoro-2-methylpropyl)piperidin-4-ol (0.11 g). LC-MS: m/z 194.2 (M+H)+

reactant | tert-butyl 4-((benzyloxy)methoxy)-4-(3,3-difluoro-2-methylpropyl)piperidine-1-carboxylate | 0.33 g | C(C1=CC=CC=C1)OCOC1(CCN(CC1)C(=O)OC(C)(C)C)CC(C(F)F)C | C22H33F2NO4
reactant | HCl | 5 M | Cl | ClH
solvent | MeOH | 4 mL | CO | CH4O
solvent | methanol | 15 mL | CO | CH4O
product | 4-(3,3-difluoro-2-methylpropyl)piperidin-4-ol | 0.11 g | FC(C(CC1(CCNCC1)O)C)F | C9H17F2NO
